US04636571
4-Carbethoxy-5-methyl-2-vinyl-2,3-dihydrofuran was prepared in accordance with the oxidative addition procedure described by Vinogradov et. al. in Izv. Akad Nauk SSR, Ser. Khimm, 1981, (9), 2088-84. For the reaction, 98 grams manganous acetate tetrahydrate was combined with 300 mls acetic acid in a glass reaction vessel. The mixture was heated to 60° C. with stirring and 15.8 grams potassium permanganate slowly added. The temperature was maintained below 70° C. during the addition and, when the addition was complete, the mixture was stirred for thirty minutes and then cooled to approximately 20° C. Two grams cupric acetate and 180 grams ethyl acetoacetate were then charged to the reactor and, after the mixture was stirred for five minutes, butadiene was slowly bubbled into the mixture which was maintained at 25° C. After thirty grams butadiene was added, the mixture was stirred for five minutes at 30° C. and then heated at 60° C. for fifteen minutes. At this point, the color of the reaction mixture changed from pink to brown (indicating reduction of Mn (III) to Mn (II)) and essentially all of the starting ethyl acetoacetate was determined by gas chromatographic analysis to be reacted. The mixture was cooled and filtered to remove insoluble salts. The salts were washed twice with acetic acid (50 mls) and the combined filtrates stripped on a rotary evaporator at 90° C. and reduced pressure to remove the acetic acid. The resulting residue was poured into 250 mls water and extracted three times with n-hexane (75 mls). The combined organic extracts were then washed with aqueous sodium bicarbonate, dried over sodium sulfate, and stripped on a rotary evaporator under reduced pressure to remove the organic solvent. The crude product was vacuum distilled to obtain a 65% yield of essentially pure (99%) 4-carbethoxy-5-methyl-2-vinyl-2,3-dihydrofuran (B.P. 108-110 @ 10 mm Hg).

reactant | potassium permanganate | 15.8 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ethyl acetoacetate | 180 grams | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 300 mls | C(C)(=O)O | C2H4O2
product | 4-carbethoxy-5-methyl-2-vinyl-2,3-dihydrofuran | 99% | C(=O)(OCC)C=1CC(OC1C)C=C | C10H14O3
